### PR TITLE
zoom session 11

### PR DESCRIPTION
**Pull request by awalterschulze**
- Proved THEOREM 3.2
- Moved a few functions named `commutes_a_xxx`
- proved `commutes_a_nor`
- Created dubstep tactic

### CODE REVIEW

File: src/Brzozowski/Derive.v [hunk 1]
```diff
@@ -197,17 +252,233 @@ Fixpoint derive_def (r: regex) (a: alphabet) : regex :=
...
+  \end{aligned}
+  $$
+*)
+
+Theorem nor_seqs_distributes: forall (p q: regex) (a: alphabet),
+  derive_seqs_a {{nor p q}} a {<->}
+  nor_seqs (derive_seqs_a {{p}} a) (derive_seqs_a {{q}} a).
+Proof.
+intros.
+dubstep denote_regex.
```
Comment (mheiber) [inline src/Brzozowski/Derive.v:323]: `cbn` has the same effect here!!!

I feel silly.

```coq
Proof.
intros. cbn.
split; intros; invs H; constructor; wreckit; untie.
Qed.
```

File: src/Brzozowski/Derive.v [hunk 2]
```diff
@@ -197,17 +252,233 @@ Fixpoint derive_def (r: regex) (a: alphabet) : regex :=
...
+split; intros; invs H; constructor; wreckit; untie.
+Qed.
+
+Theorem commutes_a_nor: forall (p q: regex) (a: alphabet)
```
Comment (mheiber) [inline src/Brzozowski/Derive.v:327]: minor: I recommend using `Lemma` for the `commutes_a_<op>` proofs, since we only need them to prove `derive_commutes_a`.

File: src/Brzozowski/Derive.v [hunk 3]
```diff
@@ -197,17 +252,233 @@ Fixpoint derive_def (r: regex) (a: alphabet) : regex :=
...
+  invs R0.
+Qed.
+
+Theorem derive_commutes_a: forall (r: regex) (a: alphabet),
+  derive_seqs_a {{ r }} a
+  {<->}
+  {{ derive_def r a }}.
+Proof.
+induction r.
+- admit.
```
Comment (mheiber) [inline src/Brzozowski/Derive.v:473]: I think it will make it clearer where we were going and what work remains if we finish off this proof and admit named lemmas with TODOs for the remaining work:

```
Theorem derive_commutes_a: forall (r: regex) (a: alphabet),
  derive_seqs_a {{ r }} a
  {<->}
  {{ derive_def r a }}.
Proof.
induction r; intros.
- apply commutes_a_emptyset.
- apply commutes_a_lambda.
- apply commutes_a_symbol.
- admit. (* apply commutes_a_concat. *)
- admit. (* apply commutes_a_star. *)
- apply commutes_a_nor.
  + apply IHr1.
  + apply IHr2.
Abort.

```

And elsewhere:

```coq
Lemma commutes_a_concat: forall (a : alphabet)
    (r1 r2 : regex),
  derive_seqs_a {{concat r1 r2}} a
  {<->} {{derive_def (concat r1 r2) a}}.
Proof.
(* TODO: Help Wanted *)
Admitted.

Lemma commutes_a_star: forall (a : alphabet)
    (r : regex),
 derive_seqs_a {{star r}} a
               {<->} {{derive_def (star r) a}}.
Proof.
(* TODO: Help Wanted *)
Admitted.
```

File: src/Brzozowski/Derive.v (hunk 1 above)
Comment (mheiber) [reply src/Brzozowski/Derive.v:323]: For the curious: I asked on StackOverflow whether the fold/unfold thing always does nothing : https://stackoverflow.com/a/63210415/2482570

Comment (awalterschulze) [reply src/Brzozowski/Derive.v]: It seems dubstep is not needed in the other places too, but I kept it, since it definitely helped with our thought process.

Comment (mheiber) [reply src/Brzozowski/Derive.v]: My preference, fwiw, is to dedubstepify, since I think it's confusing to a have a custom noop tactic

Comment (awalterschulze) [reply src/Brzozowski/Derive.v]: I think without it, we wouldn't have finished the proofs.
It was necessary for us to see the step happen.

Comment (awalterschulze) [reply src/Brzozowski/Derive.v]: But I did remove it, in this one place :)
